US07863314B2
B. 3-[5-Amino-4-(3-chlorobenzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methyl-benzamide
A solution of 2-(3-chlorobenzoyl)-3-phenylaminoacrylonitrile (63 mg, 0.22 mmol, 1.0 eq), N-cyclopropyl-3-hydrazino-4-methylbenzamide trifluoroacetate (72 mg, 0.22 mmol, 1 eq), and triethylamine (31 μL, 0.22 mmol, 1.0 eq) in 10 mL of ethanol was heated to 65° C. for 20h. After cooling, the mixture was concentrated and the residue purified by flash chromatography on silica gel packed and eluted with 7/3 hexanes/ethyl acetate to remove byproducts followed by 3/2 ethyl acetate/hexanes to elute the title compound (33 mg, 38%) as a brown solid. HPLC (4 minute 10-95 gradient) tR 2.35 min; MS m/z 395.1 [M+H]+; 1H NMR (CD3OD), δ 7.92 (d, J=7.2 Hz, 1 H), 7.77 (m, 4 H), 7.55 (m, 3 H), 2.85 (m, 1 H), 2.23 (s, 3 H), 0.80 (d, J=5.5 Hz, 2 H), 0.63 (d, J=2.0 Hz, 2 H) ppm; 13C NMR (CD3OD), δ 187.1, 168.1, 151.9, 141.0, 140.9, 140.0, 134.9, 133.8, 132.8, 130.9, 130.5, 129.4128.1, 127.0, 126.1, 125.6, 102.6, 22.1, 15.7, 4.6 ppm.

reactant | 2-(3-chlorobenzoyl)-3-phenylaminoacrylonitrile | 0.22 mmol, 63 mg, 1.0 eq | ClC=1C=C(C(=O)C(C#N)=CNC2=CC=CC=C2)C=CC1 | C16H11ClN2O
reactant | N-cyclopropyl-3-hydrazino-4-methylbenzamide trifluoroacetate | 0.22 mmol, 72 mg, 1 eq | FC(C(=O)O)(F)F.C1(CC1)NC(C1=CC(=C(C=C1)C)NN)=O
reactant | triethylamine | 0.22 mmol, 31 μL, 1.0 eq | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[5-Amino-4-(3-chlorobenzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methyl-benzamide | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)Cl)=O | C21H19ClN4O2
